US06153640
Step 1: 3-{Benzyl-[2-(2-bromophenyl)-2-oxoethyl]amino}propanenitrile
A solution of 97.5 g of 2-bromo-α-bromoacetophenone in 200 ml of acetone is poured dropwise, at ambient temperature, into a solution of 61.7 g de N-benzyl-2-cyanoethylamine and 67 ml of diisopropylethylamine in 200 ml of acetone. After stirring for 12 hours, the reaction mixture is evaporated, taken up in ether, washed twice with 500 ml of water each time and dried. After evaporating under reduced pressure, 131.9 g of expected product are obtained.

reactant | 2-bromo-α-bromoacetophenone | 97.5 g | BrC(C(=O)C1=CC=CC=C1)Br | C8H6Br2O
reactant | N-benzyl-2-cyanoethylamine | C(C1=CC=CC=C1)NCCC#N | C10H12N2
reactant | diisopropylethylamine | 67 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | acetone | 200 ml | CC(=O)C | C3H6O
product | 3-{Benzyl-[2-(2-bromophenyl)-2-oxoethyl]amino}propanenitrile | C(C1=CC=CC=C1)N(CCC#N)CC(=O)C1=C(C=CC=C1)Br | C18H17BrN2O
